US08222416B2
A solution of dithiomalonic acid di-S-ethyl ester (42.3 g, 0.22 mol) and 1,4-diazabicyclo[2,2,2]octane (24.7 g, 0.22 mol), cyclopent-2-enone (17.6 g, 0.21 mol) in 1,2-dimethoxyethane (300 mL) was stirred at room temperature under nitrogen for 48 h. The mixture was concentrated in vacuo to give a residue which was purified by flash column chromatography (QingDao silica gel, 200-300 mesh, 5% ethyl acetate/pentane) afforded 2-(3-oxo-cyclopentyl)-dithiomalonic acid di-S-ethyl ester as a white solid (50.0 g, 82%).

reactant | dithiomalonic acid di-S-ethyl ester | 0.22 mol, 42.3 g | C(C)SC(CC(=O)SCC)=O | C7H12O2S2
reactant | 1,4-diazabicyclo[2,2,2]octane | 0.22 mol, 24.7 g | N12CCN(CC1)CC2 | C6H12N2
reactant | cyclopent-2-enone | 0.21 mol, 17.6 g | C1(C=CCC1)=O | C5H6O
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
product | 2-(3-oxo-cyclopentyl)-dithiomalonic acid di-S-ethyl ester | 50.0 g, 82% | C(C)SC(C(C(=O)SCC)C1CC(CC1)=O)=O | C12H18O3S2
